US06531620B2
23 g (100 mmol) of N-((3-aminopropyl)dimethylsilyl)-2,2-dimethyl-1-aza-2-silacyclopentane were dissolved in 50 ml of THF, and 4 ml of water were subsequently added with ice cooling. Distillation gave 23.6 g of bis(3-aminopropyl)tetramethyldisiloxane (95% yield).

reactant | N-((3-aminopropyl)dimethylsilyl)-2,2-dimethyl-1-aza-2-silacyclopentane | 100 mmol, 23 g | NCCC[Si](N1[Si](CCC1)(C)C)(C)C | C10H26N2Si2
reactant | water | 4 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | bis(3-aminopropyl)tetramethyldisiloxane | 23.6 g, 95% yield | NCCC[Si](O[Si](C)(C)C)(C)CCCN | C10H28N2OSi2
